US07030107B2
A mixture of 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (40.0 mg) and 4-(t-butoxycarbonylamino)piperidine (38.9 mg) was stirred at 140° C. for 5 hours. To the remaining product, water was added and the mixture was extracted with ethyl acetate, followed by drying on anhydrous sodium sulfate. The solvent was then removed to obtain a residue. To this residue, a 3 mol/L ethyl acetate solution of hydrogen chloride (1 mL) was added and the mixture was stirred at room temperature for 1 hour. The solvent was again removed to obtain a residue. To this residue, ethyl acetate was added and the mixture was washed with a saturated aqueous solution of sodium hydrogen carbonate, followed by drying on anhydrous sodium sulfate. The solvent was then removed and the resulting residue was purified on a silica gel column chromatography (ethyl acetate:methanol=3:1) to obtain 9-(4-aminopiperidine-1-yl)-5-[3,5-bis(trifluoromethyl)benzyl]-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (35.0 mg, 78%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 40.0 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=CC=CC=C3)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C24H17ClF6N2O2
reactant | 4-(t-butoxycarbonylamino)piperidine | 38.9 mg | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | water | O | H2O
reactant | hydrogen chloride | 1 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 mol/L | C(C)(=O)OCC | C4H8O2
product | 9-(4-aminopiperidine-1-yl)-5-[3,5-bis(trifluoromethyl)benzyl]-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 35.0 mg, 78% | NC1CCN(CC1)C=1C=C(C2=C(OCCCN(C2=O)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)N1)C1=CC=CC=C1 | C29H28F6N4O2
